US06960589B2
benzyl 4-hydroxy-4-pyridin-2-ylpiperidine-1-carboxylate
A solution of 2-bromopyridine (0.47 mL, 5 mmol) in THF (20 mL) was cooled to −60° C. and treated dropwise with nBuLi (1.6M in hexanes, 5.2 ml, 5.2 mmol). The reaction mixture was stirred for 30 minutes at −60° C. and then benzyl 4-oxo-1-piperidine carboxylate 1.14 g, 4.9 mmol) in THF (10 mL) was slowly added to the reaction mixture. The reaction mixture was stirred at −60° C. for 15 minutes and then quenched with saturated NH4Cl. The cooling bath was removed and reaction mixture was allowed to warm to room temperature. The mixture was were extracted with CH2Cl2 and the organics were dried (MgSO4), filtered and the filtrate concentrated under reduced pressure. The residue was purified by flash chromatography using hexane:ethyl acetate (1:1) to provide the title compound, 400 mg (27%). 1H NMR (d6-DMSO, 300 MHz) δ 1.54 (m, 4H), 2.05 (m, 4 H), 3.25 (m, 4H), 3.95 (m, 4H), 5.11 (s, 2H), 5.35 (s, 1H), 7.25 (m, 2H), 7.35 (m, 5H), 7.68 (m, 1H), 8.5 (m, 1H); MS (DCI/NH3) m/z 313 (M+H)+.

reactant | 2-bromopyridine | 5 mmol, 0.47 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | nBuLi | 5.2 mmol, 1.6M, 5.2 ml | [Li]CCCC
reactant | benzyl 4-oxo-1-piperidine carboxylate | 4.9 mmol, 1.14 g | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | benzyl 4-hydroxy-4-pyridin-2-ylpiperidine-1-carboxylate | OC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)C1=NC=CC=C1 | C18H20N2O3
